US09284315B2
(2) Preparation of N-(5-(3-methyl-2-oxo-1-(3-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydropyrimido[5,4-c][1,5]naphthyridin-9-yl)pyridin-2-yl)acetamide
9-chloro-3-methyl-1-(3-(trifluoromethyl)phenyl)-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-2(1H)-one (314 mg, 0.80 mmol), tetrakis(triphenylphosphine) palladium (15 mg, 0.013 mmol) and 2N aqueous sodium carbonate solution (1.3 mL) were added sequentially to a solution of N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)acetamide (225 mg, 0.858 mmol) in 1,4-dioxane (15 mL), and reacted under nitrogen at 90° C. for 16 h, cooled to room temperature, filtered, the organic layer was concentrated under reduced pressure, dissolved in 50 mL of dichloromethane, washed sequentially with water and saturated brine, dried over anhydrous sodium sulfate, concentrated and subjected to silica gel column chromatography (ethyl acetate) to give 267 mg of the product.

reactant | 9-chloro-3-methyl-1-(3-(trifluoromethyl)phenyl)-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-2(1H)-one | 0.80 mmol, 314 mg | ClC1=NC=2C3=C(C=NC2C=C1)CN(C(N3C3=CC(=CC=C3)C(F)(F)F)=O)C | C18H12ClF3N4O
reactant | sodium carbonate | 2N, 1.3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)acetamide | 0.858 mmol, 225 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)NC(C)=O)C | C13H19BN2O3
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium | 0.013 mmol, 15 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-(5-(3-methyl-2-oxo-1-(3-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydropyrimido[5,4-c][1,5]naphthyridin-9-yl)pyridin-2-yl)acetamide | 267 mg | CN1C(N(C2=C(C=NC=3C=CC(=NC23)C=2C=CC(=NC2)NC(C)=O)C1)C1=CC(=CC=C1)C(F)(F)F)=O | C25H19F3N6O2
